US20010016661A1
Step 1: 6-Phenylindole
A solution of 6-bromoindole (2.0 g, 10.20 mmol) in anhydrous toluene (20 mL) under a nitrogen atmosphere was treated with Pd[P(Ph3)]4 (10% mol). After stirring the mixture for 30 min., phenylboronic acid (1.87 g, 15.30 mmol) in anhydrous EtOH (10 mL) was added followed by the addition of sat'd NaHCO3 (6 mL). The bi-phasic mixture was heated to reflux for 24 h. After cooling to room temperature, the mixture was added to a sat'd brine solution and extracted with EtOAc (2×). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography (1:1 CH2Cl2/heptane) to give the desired material as white powder (900 mg, 45%): 1H NMR (DMSO-d6, 300 MHz) δ 11.15 (br s, 1H), 7.58-7.66 (m, 4H), 7.41-7.47 (m, 2H), 7.36 (m, 1H), 7.26-7.31 (m, 2H), 6.42 (m, 1H).

reactant | 6-bromoindole | 10.20 mmol, 2.0 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | phenylboronic acid | 15.30 mmol, 1.87 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | NaHCO3 | 6 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 6-Phenylindole | 900 mg, 45% | C1(=CC=CC=C1)C1=CC=C2C=CNC2=C1 | C14H11N
